US06555556B1
4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3-fluoroaniline
To a solution of 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-3-fluoronitrobenzene (3.71 g) in methanol (50 ml) was added palladium on carbon (0.30 g) and the mixture was stirred under a hydrogen atmosphere at room temperature for 4 hours. The reaction mixture was filtered and the filtrate concentrated in vacuo. The residue was purified by chromatography on a silica gel column using hexane/ethyl acetate=1/1 as an eluant to give the desired compound (3.27 g, yield 97%) as a pale red solid.

reactant | 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-3-fluoronitrobenzene | 3.71 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C16H21FN2O5
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium on carbon | 0.30 g | [Pd] | Pd
product | 4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3-fluoroaniline | 3.27 g, yield 97% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(N)C=C1)F | C16H23FN2O3
